Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
colonoscopy prep
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ female with the past medical
history noted below who has the ___ listed below who presents as
planned admission for colonoscopy prep. Has had two failed
attempts outpatient prior to this. Limited by anxiety and nausea
that have made her unable to tolerate PO. 
 
Past Medical History:
Thyrohyoid pain
Anxiety
Osteoporosis
Hx breast cancer (stage III infiltrating ductal carcinoma, ___
mastectomy; finished ___ years of tamoxifen and refused aromatase
inhibitor d/t side effects)
Benign left foot mass
Ovarian cysts
MDD
Thyroid nodule
Asthma (mild)
Actinic keratosis
Guttate psoriasis
IBS-D
 
Social History:
___
Family History:
___ yo aunt dx with colon ca. Father died of
non-Hodgkin's lymphoma at age ___. Mother is healthy, but has
osteoporosis and borderline hypertension controlled with diet. 
Her siblings are healthy.  Paternal grandfather died of bladder
cancer.  No breast cancer in her family.  Maternal grandfather
had heart disease.  Maternal aunt died of some form of cancer.
Other family history not pertinent to this case
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress improved from day 
prior while in midst of prep, mildly anxious affect but pleasant 
and cooperative
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 03:50PM   WBC-5.7 RBC-4.57 HGB-14.3 HCT-41.7 MCV-91 
MCH-31.3 MCHC-34.3 RDW-12.8 RDWSD-42.5
___ 03:50PM   GLUCOSE-89 UREA N-13 CREAT-0.8 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-24 ANION GAP-___ prep: Pt with failed attempts x2 at home so approved for 
admission for monitored prep. Normal state of health prior. 
Started with scheduled zofran and PRN ativan prior to 
initiation. Overnight took about ___ of prescribed prep, with 
anxiety and nausea being limiting. Day 2 added compazine, 
phenergen and reglan at various points with pt still unable to 
tolerate continued prep d/t nausea and abdominal pain. Stools 
watery but still brown tinged and with brown sediment. Slowed in 
attempting mobiprep d/t Sx. IVF bolused frequently. Several 
episodes of emesis. VSS throughout, tolerating ambulation. GI 
determined pt not fully prepared for ___ and pt feeling she was 
physically unable to continue despite optimized medical 
management of Sx. Elected to defer to alternative outpatient 
modality such as Cologuard. Pt fed, tolerated diet and DC'd 
home.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO DAILY 
2. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
3. Ibuprofen 600 mg PO Q8H:PRN Headache 
4. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Ibuprofen 600 mg PO Q8H:PRN Headache  
3.  Omeprazole 20 mg PO DAILY  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
colonoscopy prep

 
Discharge Condition:
Good
Mental status: AOx3 and conversant
Ambulatory: no limitations

 
Discharge Instructions:
You may return to your regular diet. You will follow-up, as 
discussed, with your primary doctor regarding alternative forms 
of colorectal cancer screening. A message has been sent between 
Gastroenterology and Dr ___ this.
 
Followup Instructions:
___